US08835420B2
Preparation x42: 6-(3,3-Difluoroazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile
To a 5 mL vial were added 6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile (500 mg, 2.12 mmol), Xantphos (123 mg, 0.212 mmol), palladium (II) acetate (47.6 mg, 0.212 mmol), cesium carbonate (1380 mg, 4.24 mmol) and 3,3-difluoroazetidine hydrochloride (549 mg, 4.24 mmol) in dioxane (5.0 mL). The resulting yellow suspension was heated to 110° C. for 22 hours. LC/MS showed about 50% conversion. More palladium (II) acetate (50 mg) was added and heating was continued at 110° C. for 2 days. The solution was diluted with EtOAc (up to 100 mL) and then washed with saturated aqueous ammonium chloride (100 mL) and filtered to remove solids. The layers were separated, and the organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified on a silica gel column (80 g) eluting with a 0-60% ethyl acetate in hexanes to give the title compound as a yellow solid (152 mg, 29%). 1H NMR (400 MHz, DMSO-d6) δ ppm 3.79 (s, 3 H), 4.55 (t, J=12.4 Hz, 4 H), 6.55 (dd, J=3.3, 0.8 Hz, 1 H), 7.38 (d, J=0.8 Hz, 1 H), 7.69 (d, J=3.5 Hz, 1 H); ESI-MS m/z [M+H]+ calc'd for C12H10F2N4, 249; found 249.

reactant | 6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile | 2.12 mmol, 500 mg | BrC=1C=C2C(=NC1C#N)C=CN2C | C9H6BrN3
reactant | Xantphos | 0.212 mmol, 123 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 4.24 mmol, 1380 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3,3-difluoroazetidine hydrochloride | 4.24 mmol, 549 mg | Cl.FC1(CNC1)F
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium (II) acetate | 0.212 mmol, 47.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium (II) acetate | 50 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-(3,3-Difluoroazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile | 152 mg, 29% | FC1(CN(C1)C=1C=C2C(=NC1C#N)C=CN2C)F | C12H10F2N4
